US08119676B2
tert-Butyl 3-(4-benzylpiperazin-1-yl)piperidine-1-carboxylate (XXIc)
4.90 g (21.1 mmol) of benzylbis(2-chloroethyl)amine hydrochloride were dissolved in ethanol (120 ml) and, while stirring, 5.00 g (21.1 mmol) of tert-butyl 3-aminopiperidine-1-carboxylate hydrochloride and 14.2 g (169 mmol) of sodium bicarbonate were added. The resulting reaction solution was heated under reflux for 4 h. The cooled reaction mixture was concentrated in vacuo, 100 ml of water were added, and the aqueous phase was extracted with ethyl acetate (4×60 ml). The combined organic phases were washed with saturated aqueous NaHCO3 solution, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by chromatography on silica gel (mobile phase gradient 0-5% methanol in dichloromethane). Yield: 6.99 g (75%) of yellow solid

reactant | benzylbis(2-chloroethyl)amine hydrochloride | 21.1 mmol, 4.90 g | Cl.C(C1=CC=CC=C1)N(CCCl)CCCl
reactant | tert-butyl 3-aminopiperidine-1-carboxylate hydrochloride | 21.1 mmol, 5.00 g | Cl.NC1CN(CCC1)C(=O)OC(C)(C)C
reactant | sodium bicarbonate | 169 mmol, 14.2 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | tert-Butyl 3-(4-benzylpiperazin-1-yl)piperidine-1-carboxylate | C(C1=CC=CC=C1)N1CCN(CC1)C1CN(CCC1)C(=O)OC(C)(C)C | C21H33N3O2
